US04885363
1,4,7-tris(carboxymethyl)-10-carbamoylmethyl 1,4,7,10-tetraazacyclododecane
The pH of a solution of 1.40 g of 1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane in about 4 ml water was adjusted to 9.5 using 40% aqueous benzyltrimethylammonium hydroxide. To the resulting solution was added 412 mg α-chloroacetamide. The temperature was increased to 80° C. and base was added as necessary to maintain the pH at 9.5-10. After 3 hours the solution was cooled to room temperature and acidified to pH 3 with concentrated HCl. The resulting solution was evaporated under reduced pressure to a colorless sludge. The mixture was taken up in about 25 ml MeOH and re-evaporated. The thick residue was triturated with a 1:1 mixture of acetone and ethanol to provide a granular solid and colorless solution. The solid was collected by filtration, washed with acetone/ethanol followed by acetone and finally ether, then dried in a vacuum oven at 50° for 2 hours. Obtained was 1.54 g of the title compound as a colorless powder. The product was twice crystallized from ethanol/water.

reactant | 1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane | 1.40 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | α-chloroacetamide | 412 mg | ClCC(=O)N | C2H4ClNO
reactant | HCl | Cl | ClH
solvent | water | about 4 ml | O | H2O
product | 1,4,7-tris(carboxymethyl)-10-carbamoylmethyl 1,4,7,10-tetraazacyclododecane | 1.54 g | C(=O)(O)CN1CCN(CCN(CCN(CC1)CC(N)=O)CC(=O)O)CC(=O)O | C16H29N5O7
